US07049271B2
30.0 g of 6-fluoro-4H-benz[1,4]oxazin-3-one are initially charged in 300 ml of dichloromethane, and 37.4 g of bromine are then slowly added dropwise at room temperature. The mixture is heated at 30° C. with stirring for 15 h. The reaction solution is cooled to room temperature and poured onto ice. The aqueous phase is extracted repeatedly with dichloromethane. The combined organic phases are washed with saturated sodium thiosulphate solution, dried over magnesium sulphate and concentrated. This give 44.1 g (yield 99.5% of theory) of 7-bromo-6-fluoro-4H-benz[1,4]oxazin-3-one of melting point 244° C.

reactant | 6-fluoro-4H-benz[1,4]oxazin-3-one | 30.0 g | FC=1C=CC2=C(NC(CO2)=O)C1 | C8H6FNO2
reactant | bromine | 37.4 g | BrBr | Br2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 7-bromo-6-fluoro-4H-benz[1,4]oxazin-3-one | 44.1 g, yield 99.5% | BrC1=CC2=C(NC(CO2)=O)C=C1F | C8H5BrFNO2
